US06573273B1
Under a nitrogen atmosphere a mixture of 1-(8-aminooctyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.5 g, 4.06 mmol) and dichloromethane (50 mL) was cooled to 0° C. Phenyl isocyanate was added dropwise. The reaction mixture was allowed to slowly warm to ambient temperature overnight. The reaction mixture was concentrated under reduced pressure. The crude product was purified by column chromatography (110 g silica gel eluting with 9:1 dichloromethane:methanol). The resulting orange solid was triturated with hexanes, isolated by filtration and then dried. This material was recrystallized from propyl acetate with a small amount of methanol, isolated by filtration, washed with hexanes, and then dried in a vacuum oven at 60° C. for 2 days to provide 0.6 g of N-{8-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]octyl}-N′-phenylurea as an off white powder, m.p. 136-142° C. Analysis: Calculated for C28H36N6O2: %C, 68.83; %H, 7.43; %N, 17.20; Found: %C, 68.27; %H, 7.44; %N, 16.85. 1H NMR (300 MHz, DMSO-d6) δ 8.36 (s, 1H), 8.01 (d, J=7.8 Hz, 1H), 7.61 (dd, J=8.3-1.0 Hz, 1H), 7.44-7.35 (m, 3H), 7.29-7.17 (m, 3H), 6.87 (t, J=7.3 Hz, 1H), 6.52 (s, 2H), 6.08 (m, 1H), 4.51 (t, J=7.8 Hz, 2H), 3.82 (m, 2H), 3.29 (s, 3H), 3.18 (t, J=6.8 Hz, 2H), 3.05 (m, 2H), 1.81 (m, 2H), 1.42-1.29 (m, 10H); 13C NMR (75 MHz, DMSO-d6) 155.5, 152.0, 151.0, 145.0, 141.0, 132.6, 128.9, 126.8, 126.7, 126.6, 121.5, 121.2, 120.7, 117.9, 115.1, 70.5, 58.5, 45.3, 30.1, 29.0, 27.5, 26.6, 26.2. MS m/z 489 (M+H).

reactant | 1-(8-aminooctyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 4.06 mmol, 1.5 g | NCCCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C21H31N5O
reactant | Phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-{8-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]octyl}-N′-phenylurea | 0.6 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCCCCNC(=O)NC2=CC=CC=C2)CCOC | C28H36N6O2
